US04705853
2-[2-(Dimethylamino)propyl]-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one hydrochloride [1:2]
Into a stainless steel bomb was placed 1.0 g sodium iodide, 5.0 g (0.017 mole) of 2-(2-chloropropyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one and 40 ml of dimethylamine. The bomb was sealed tightly, placed in the oven at 60° C. and rolled continuously for 7 days. The bomb was allowed to stand at room temperature for several days. The residue was combined with that of a previous run of equal size and separated via column chromatography using silica gel and eluting with ethanol and then with 3% triethylamine/ethanol. The fractions containing the desired product were combined and concentrated by rotary evaporation (80° C., 30 mm). The residue was taken up in 150 ml of chloroform and washed with 2×50 ml diluted sodium hydroxide. The chloroform was removed by rotary evaporation (70° C., 30 mm) and the residue treated with ethereal hydrogen chloride and hydrogen chloride in isopropyl alcohol. The white crystals which were collected weighed 3 g (28%), m.p. 173°-76° C.

reactant | sodium iodide | 1.0 g | [I-].[Na+]
reactant | 2-(2-chloropropyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one | 0.017 mole, 5.0 g | ClC(CC1OC2=C(C(N(C1)C)=O)C=CC=N2)C | C12H15ClN2O2
reactant | dimethylamine | 40 ml | CNC | C2H7N
product | 2-[2-(Dimethylamino)propyl]-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one hydrochloride | Cl.CN(C(CC1OC2=C(C(N(C1)C)=O)C=CC=N2)C)C | InChI=1S/C14H21N3O2.ClH/c1-10(16(2)3)8-11-9-17(4)14(18)12-6-5-7-15-13(12)19-11;/h5-7,10-11H,8-9H2,1-4H3;1H
